US04076820
1,3,4,6,7,11b -Hexahydro-2H-benzoquinolizin-2-ylurea
1-(1,3,4,6,7,11b-Hexahydro-2H-benzo[a]quinolizin-2-yl)-3-benzoylurea hydrochloride (0.98 g) was refluxed in 2N sodium hydroxide solution (50 ml) for 4 hours. The solution was filtered and the residue washed with water, then ethanol, and finally ether before drying to give the title compound (0.46 g) melting point 235° C. C14H19N3O requires: C, 68.54%; H, 7.81%; N, 17.13%. Found: C, 68.53%; H, 7.79%; N, 17.33%.

reactant | 1-(1,3,4,6,7,11b-Hexahydro-2H-benzo[a]quinolizin-2-yl)-3-benzoylurea hydrochloride | 0.98 g | Cl.C1C(CCN2CCC3=C(C12)C=CC=C3)NC(=O)NC(C3=CC=CC=C3)=O
solvent | sodium hydroxide | 2N, 50 ml | [OH-].[Na+]
product | 1,3,4,6,7,11b -Hexahydro-2H-benzoquinolizin-2-ylurea | 0.46 g | C1C(CCN2CCC3=C(C12)C=CC=C3)NC(=O)N | C14H19N3O
